US04478842
A mixture of 6.39 g of 1-[2-(4-ethoxycarbonylphenylthio)ethyl]-2-(3-pyridyl)-3-methylindole in 260 ml of 2 N HCl is heated at reflux temperature for 6 hours. After cooling the pH is adjusted to 6-7 with saturated aqueopus NaHCO3 (ca 500 ml). About 200 ml of ether is added and the mixture is stirred for 0.5 hour. A solid is collected, first washed with water, then ether, and then dissolved in 100 ml hot absolute ethanol. The solution is filtered, and while still hot treated with 1.68 ml of 6.5 N ethanolic HCl. The solution is cooled and diluted with ca 100 ml ether. The resulting product is collected to yield 1-[2-(4-carboxyphenylthio)ethyl]-2-(3-pyridyl)-3-methylindole hydrochloride, m.p. 222°-224°.

reactant | 1-[2-(4-ethoxycarbonylphenylthio)ethyl]-2-(3-pyridyl)-3-methylindole | 6.39 g | C(C)OC(=O)C1=CC=C(C=C1)SCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | C25H24N2O2S
reactant | NaHCO3 | ca 500 ml | C(=O)(O)[O-].[Na+]
reactant | ether | 200 ml | CCOCC | C4H10O
reactant | HCl | 2 N, 260 ml | Cl | ClH
product | 1-[2-(4-carboxyphenylthio)ethyl]-2-(3-pyridyl)-3-methylindole hydrochloride | Cl.C(=O)(O)C1=CC=C(C=C1)SCCN1C(=C(C2=CC=CC=C12)C)C=1C=NC=CC1 | InChI=1S/C23H20N2O2S.ClH/c1-16-20-6-2-3-7-21(20)25(22(16)18-5-4-12-24-15-18)13-14-28-19-10-8-17(9-11-19)23(26)27;/h2-12,15H,13-14H2,1H3,(H,26,27);1H
